US06617339B1
3-(4-(4-Acetylpiperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxy-methyl)oxazolidin-2-one
The title compound was prepared using essentially the method of Example 73, starting from 3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride (0.59 g, 1.35 mmol) and acetyl chloride. Purification by chromatography, eluting with a gradient increasing in polarity from 0 to 2.5% MeOH in dichloromethane gave the desired product (142 mg).

reactant | 3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride | 1.35 mmol, 0.59 g | Cl.Cl.N1(CCNCC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 3-(4-(4-Acetylpiperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxy-methyl)oxazolidin-2-one | 142 mg | C(C)(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C19H21FN4O5
